US08912196B2
1 g (5.1 mmol) of Dibenzofuran-4-carboxaldehyde is dissolved in 5 ml of ethanol. 0.24 g of NaBH4 is then added portionwise to the stirred solution during a period 20 minutes. The solution is maintained under stirring at room temperature for 2 hours, following which the solvent is evaporated. The residue obtained is treated with water, and aqueous layer is then extracted with ether. Evaporation of the organic phase yielded 0.90 g of Dibenzofuran-4-ylmethanol.

reactant | Dibenzofuran-4-carboxaldehyde | 5.1 mmol, 1 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=O | C13H8O2
reactant | NaBH4 | 0.24 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Dibenzofuran-4-ylmethanol | 0.90 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)CO | C13H10O2
